### PR TITLE
[Merged by Bors] - chore(Algebra/Order/Ring): deprecate `Int.cast_natAbs`

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Cast.lean [hunk 1]
```diff
@@ -102,10 +102,7 @@ lemma nneg_mul_add_sq_of_abs_le_one (n : ℤ) (hx : |x| ≤ 1) : (0 : R) ≤ n *
 
 -- TODO: move to a better place
 omit [LinearOrder R] [IsStrictOrderedRing R] in
-lemma cast_natAbs : (n.natAbs : R) = |n| := by
-  cases n
-  · simp
-  · rw [abs_eq_natAbs, natAbs_negSucc, cast_succ, cast_natCast, cast_succ]
+lemma cast_natAbs : (n.natAbs : R) = |n| := Nat.cast_natAbs n
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Order/Ring/Cast.lean]: Are the two declarations actually identical? I mean, it seems to me that there is a problem with `Nat.cast_natAbs` (it is about integers, not natural).

Comment (euprunin) [reply Mathlib/Algebra/Order/Ring/Cast.lean]: Now deprecating `Int.cast_natAbs` instead. Makes sense?
